US05610303
N-(5-ethylpyrimidin-4-yl)-4-[3-(1-benzylpiperidin-4-yl)propanoyl]aniline (Compound II-205 in Table 1)
To 10 ml of ethanol were added 0.23 g of 4-[3-(1-benzylpiperidin-4-yl)propanoyl]aniline and 0.13 g of 4-chloro-5-ethylpyrimidine, and after adding 2 ml of an ethanol solution of hydrochloric acid (containing 0.071 g of hydrochloric acid), the mixture was reacted under reflux for 2 hours. After cooling, a 28% sodium methylate-methanol solution was added to the reaction mixture to make it alkaline, and then the mixture was condensed under reduced pressure. The obtained residue was applied to silica gel column chromatography to obtain 0.18 g of the title compound as pale yellow crystal.

reactant | 4-[3-(1-benzylpiperidin-4-yl)propanoyl]aniline | 0.23 g | C(C1=CC=CC=C1)N1CCC(CC1)CCC(=O)C1=CC=C(N)C=C1 | C21H26N2O
reactant | 4-chloro-5-ethylpyrimidine | 0.13 g | ClC1=NC=NC=C1CC | C6H7ClN2
reactant | hydrochloric acid | 0.071 g | Cl | ClH
reactant | sodium methylate methanol | C[O-].[Na+].CO
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-(5-ethylpyrimidin-4-yl)-4-[3-(1-benzylpiperidin-4-yl)propanoyl]aniline | 0.18 g | C(C)C=1C(=NC=NC1)NC1=CC=C(C=C1)C(CCC1CCN(CC1)CC1=CC=CC=C1)=O | C27H32N4O
